US06479536B1
N-[3-(4-Isopropylphenyl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl]benzamide
By using 3-(4-isopropylphenyl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-amine and benzoyl chloride, the title compound was synthesized according to Example 1b. Yield: 90%. Melting point: 218-220° C. (Ethyl acetate-hexane).

reactant | 3-(4-isopropylphenyl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-amine | C(C)(C)C1=CC=C(C=C1)C1C(OC2=C1C(=C(C(=C2C)C)N)C)(C)C | C22H29NO
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | Ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | N-[3-(4-Isopropylphenyl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl]benzamide | Yield: 90% | C(C)(C)C1=CC=C(C=C1)C1C(OC2=C1C(=C(C(=C2C)C)NC(C2=CC=CC=C2)=O)C)(C)C | C29H33NO2
